US07589232B2
Step b) Formation of methyl 5-({(4-dec-1-ynylbenzyl)[(2E)-3-phenylprop-2-enoyl]amino}-methyl)-2-(2-methoxy-2-oxoethoxy)benzoate
The title compound was prepared following the procedure G using the hydrochloride salt of methyl 5-{[(4-dec-1-ynylbenzyl)amino]methyl}-2-(2-methoxy-2-oxoethoxy)benzoate and (2E)-3-phenylacryloyl chloride (purification by flash chromatography on SiO2, DCM/MeOH 98:2) as a pale yellow oil (82%). M+ (ESI): 610.0. HPLC, Rt: 6.0 min (purity: 99.5%). 1H NMR (CDCl3) δ: 7.85 (d, J=15.4 Hz, 1H), 7.70 (m, 1H), 7.47-7.12 (m, 10H), 6.86 (m, 2H), 4.74 (s, 2H), 4.61 (m, 4H), 3.90 (s, 3H), 3.81 (s, 3H), 2.41 (t, J=7.0 Hz, 2H), 1.61 (m, 2H), 1.45 (m, 2H), 1.30 (m, 8H), 0.89 (t, J=6.8 Hz, 3H).

reactant | methyl 5-{[(4-dec-1-ynylbenzyl)amino]methyl}-2-(2-methoxy-2-oxoethoxy)benzoate | C(#CCCCCCCCC)C1=CC=C(CNCC=2C=CC(=C(C(=O)OC)C2)OCC(=O)OC)C=C1 | C29H37NO5
reactant | (2E)-3-phenylacryloyl chloride | C1(=CC=CC=C1)/C=C/C(=O)Cl | C9H7ClO
product | methyl 5-({(4-dec-1-ynylbenzyl)[(2E)-3-phenylprop-2-enoyl]amino}-methyl)-2-(2-methoxy-2-oxoethoxy)benzoate | C(#CCCCCCCCC)C1=CC=C(CN(C(\C=C\C2=CC=CC=C2)=O)CC=2C=CC(=C(C(=O)OC)C2)OCC(=O)OC)C=C1 | C38H43NO6
